US09260408B2
(S)-1-(5-Bromo-pyridin-3-yl)-5-hydroxymethyl-pyrrolidin-2-one
In a sealed tube, 3,5-dibromopyridine (0.5 g, 2.11 mmol) was combined with (S)-5-(hydroxymethyl)pyrrolidin-2-one (0.243 g, 2.11 mmol), copper (I) iodide (0.040 g, 0.021 mmol), potassium carbonate (0.583 g, 4.22 mmol) and N,N′-dimethylethylenediamine (0.037 g, 0.042 mmol) in 1,4-dioxane (20 mL). The reaction mixture was heated to 110° C. over night. The mixture was cooled to room temperature, filtered through Dicalite and washed with DCM. The residue was purified by silica gel flash chromatography eluting with a 0 to 10% MeOH-DCM gradient to give the title compound (0.140 g, 25%) as a light yellow oil. MS: 271.1, 273.1 (M+H+).

reactant | 3,5-dibromopyridine | 2.11 mmol, 0.5 g | BrC=1C=NC=C(C1)Br | C5H3Br2N
reactant | (S)-5-(hydroxymethyl)pyrrolidin-2-one | 2.11 mmol, 0.243 g | OC[C@@H]1CCC(N1)=O | C5H9NO2
reactant | potassium carbonate | 4.22 mmol, 0.583 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N′-dimethylethylenediamine | 0.042 mmol, 0.037 g | CNCCNC | C4H12N2
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
catalyst | copper (I) iodide | 0.021 mmol, 0.040 g | [Cu]I
product | (S)-1-(5-Bromo-pyridin-3-yl)-5-hydroxymethyl-pyrrolidin-2-one | 0.140 g, 25% | BrC=1C=C(C=NC1)N1C(CC[C@H]1CO)=O | C10H11BrN2O2
